US09079878B2
3-(1-{4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-amine
To a solution of 2-methyl-N-[3-(1-{4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}-ethyl)oxetan-3-yl]propane-2-sulfinamide (Preparation 9, 0.320 g, 0.74 mmol) in methanol (4 mL) at 0° C. was added 4M hydrogen chloride in 1,4-dioxane (4 mL) and the reaction left to stir for 2 hours. Solid sodium hydrogen carbonate was added to the reaction, followed by a saturated aqueous solution of sodium hydrogen carbonate. The mixture was extracted with dichloromethane. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography to afford the title compound (0.243 g, 91% yield).

reactant | 2-methyl-N-[3-(1-{4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}-ethyl)oxetan-3-yl]propane-2-sulfinamide | 0.74 mmol, 0.320 g | CC(C)(C)S(=O)NC1(COC1)C(C)C=1NC=C(N1)C1=CC=C(C=C1)OC(F)(F)F | C19H24F3N3O3S
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-(1-{4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-amine | 0.243 g, 91% yield | FC(OC1=CC=C(C=C1)C=1N=C(NC1)C(C)C1(COC1)N)(F)F | C15H16F3N3O2
